US07989628B2
N5-Methyl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=268.4 (M+H+), was prepared in accordance with the general method of example 3 from 5-bromo-2-chloroquinoline, 5-methyl-2-furanmethanamine and methylamine (solution in ethanol).

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | methylamine | CN | CH5N
product | N5-Methyl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | CNC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C16H17N3O
